US09302992B2
A solution of 8-hydroxy-2-methylquinoline (6.0 g, 37.7 mmol) in dioxane (15 ml) was added to a stirred solution of SeO2 (6.3 g, 56.8 mmol) in dioxane (80 ml) dropwise at 50° C. and the mixture was heated up to 80° C. for further 20 h. The resulting mixture was filtered. The filtrate was concentrated and the residue purified by column chromatography with Hex/EA=(15:1 to 10:1) to give 8-hydroxyquinoline-2-carboxaldehyde (2.45 g, 38%) derivatives as intermediates. Intermediate was converted into N-substituted compounds by reductive amination with aminoalcohol, aminoalkyne or other heterocycles to give series of compounds. 8-alkoxy-2-methyl quinoline were oxidized to give 8-alkoxyquinoline-2-carboxaldehyde derivatives and followed by the same method to give compounds M to O.

reactant | 8-hydroxy-2-methylquinoline | 37.7 mmol, 6.0 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 8-hydroxyquinoline-2-carboxaldehyde | 2.45 g, 38% | OC=1C=CC=C2C=CC(=NC12)C=O | C10H7NO2
